US06211199B1
32.2 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-methoxyphenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine
Prepare by the method of Example 17.3 using 4-methoxybenzyl mesylate and 1-(3,4,5-trimethoxybenzyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine to give the title compound: Rf=0.15 (silica gel, 1/4 ethyl acetate/hexane).

reactant | 4-methoxybenzyl mesylate | S(C)(=O)(=O)OCC1=CC=C(C=C1)OC | C9H12O4S
reactant | 1-(3,4,5-trimethoxybenzyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)CCO[Si](C)(C)C(C)(C)C)=O)C=C(C1OC)OC | C22H37NO5Si
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-methoxyphenylmethyl)-3-(2-(t-butyldimethylsilyloxy)ethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCO[Si](C)(C)C(C)(C)C)CC2=CC=C(C=C2)OC)=O)C=C(C1OC)OC | C30H45NO6Si
